.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-901_freq port1 port2 PARAMS: Cpar=0.06pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=830
+ R2=0.1
+ C= {Cpar}
+ K1=0.000555
+ K2=0.35
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5956.194899
.ends 1008AF-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-901
* Inductance = 900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-901_imp port1 port2 PARAMS: Cpar=0.052pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=830
+ R2=0.1
+ C= {Cpar}
+ K1=0.000555
+ K2=0.35
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5956.194899
.ends 1008AF-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-112
* Inductance = 1.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-112_freq port1 port2 PARAMS: Cpar=0.08pF Ind=1.065uH
X1 port1 port2 Model1A PARAMS:
+ R1=800
+ R2=0.105
+ C= {Cpar}
+ K1=0.00045
+ K2=0.45
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6352.234425
.ends 1008AF-112_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-112
* Inductance = 1.1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-112_imp port1 port2 PARAMS: Cpar=0.072pF Ind=1.065uH
X1 port1 port2 Model1D PARAMS:
+ R1=800
+ R2=0.105
+ C= {Cpar}
+ K1=0.00045
+ K2=0.45
+ K3= {Ind}
+ K4=0.025
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6352.234425
.ends 1008AF-112_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-132_freq port1 port2 PARAMS: Cpar=0.44pF Ind=1.27uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.11
+ C= {Cpar}
+ K1=0.0007
+ K2=0.54
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5434.617124
.ends 1008AF-132_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-132_imp port1 port2 PARAMS: Cpar=0.409pF Ind=1.27uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.11
+ C= {Cpar}
+ K1=0.0007
+ K2=0.54
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5434.617124
.ends 1008AF-132_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-152_freq port1 port2 PARAMS: Cpar=0.84pF Ind=1.48uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.125
+ C= {Cpar}
+ K1=0.00066
+ K2=0.7
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5074.481061
.ends 1008AF-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-152_imp port1 port2 PARAMS: Cpar=0.796pF Ind=1.48uH
X1 port1 port2 Model1D PARAMS:
+ R1=125
+ R2=0.125
+ C= {Cpar}
+ K1=0.00066
+ K2=0.7
+ K3= {Ind}
+ K4=0.029
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5074.481061
.ends 1008AF-152_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-192
* Inductance = 1.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-192_freq port1 port2 PARAMS: Cpar=0.47pF Ind=1.88uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.14
+ C= {Cpar}
+ K1=0.0008
+ K2=0.85
+ K3= {Ind}
+ K4=0.032
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7617.39929
.ends 1008AF-192_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-192
* Inductance = 1.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-192_imp port1 port2 PARAMS: Cpar=0.447pF Ind=1.88uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.14
+ C= {Cpar}
+ K1=0.0008
+ K2=0.85
+ K3= {Ind}
+ K4=0.032
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7617.39929
.ends 1008AF-192_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-222_freq port1 port2 PARAMS: Cpar=1.1pF Ind=2.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=70
+ R2=0.155
+ C= {Cpar}
+ K1=0.0002
+ K2=0.85
+ K3= {Ind}
+ K4=0.035
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6534.915118
.ends 1008AF-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-222_imp port1 port2 PARAMS: Cpar=1.057pF Ind=2.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=70
+ R2=0.155
+ C= {Cpar}
+ K1=0.0002
+ K2=0.85
+ K3= {Ind}
+ K4=0.035
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6534.915118
.ends 1008AF-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-272_freq port1 port2 PARAMS: Cpar=0.97pF Ind=2.65uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.19
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.045
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8177.888109
.ends 1008AF-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-272
* Inductance = 2.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-272_imp port1 port2 PARAMS: Cpar=0.932pF Ind=2.65uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.19
+ C= {Cpar}
+ K1=0.0004
+ K2=1.1
+ K3= {Ind}
+ K4=0.045
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8177.888109
.ends 1008AF-272_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-332_freq port1 port2 PARAMS: Cpar=1.4pF Ind=3.249uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.21
+ C= {Cpar}
+ K1=0.0009
+ K2=1.4
+ K3= {Ind}
+ K4=0.052
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8262.035822
.ends 1008AF-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-332_imp port1 port2 PARAMS: Cpar=1.355pF Ind=3.249uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.21
+ C= {Cpar}
+ K1=0.0009
+ K2=1.4
+ K3= {Ind}
+ K4=0.052
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8262.035822
.ends 1008AF-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-392
* Inductance = 3.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-392_freq port1 port2 PARAMS: Cpar=1.34pF Ind=3.85uH
X1 port1 port2 Model1A PARAMS:
+ R1=88
+ R2=0.22
+ C= {Cpar}
+ K1=0.0005
+ K2=1.7
+ K3= {Ind}
+ K4=0.063
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9728.975252
.ends 1008AF-392_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-392
* Inductance = 3.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-392_imp port1 port2 PARAMS: Cpar=1.297pF Ind=3.85uH
X1 port1 port2 Model1D PARAMS:
+ R1=88
+ R2=0.22
+ C= {Cpar}
+ K1=0.0005
+ K2=1.7
+ K3= {Ind}
+ K4=0.063
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9728.975252
.ends 1008AF-392_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-472_freq port1 port2 PARAMS: Cpar=1.44pF Ind=4.692uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.435
+ C= {Cpar}
+ K1=0.0003
+ K2=2
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11185.54195
.ends 1008AF-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-472_imp port1 port2 PARAMS: Cpar=1.401pF Ind=4.692uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.435
+ C= {Cpar}
+ K1=0.0003
+ K2=2
+ K3= {Ind}
+ K4=0.071
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11185.54195
.ends 1008AF-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-582
* Inductance = 5.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-582_freq port1 port2 PARAMS: Cpar=1.49pF Ind=5.687uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.28
+ C= {Cpar}
+ K1=0.0007
+ K2=2.68
+ K3= {Ind}
+ K4=0.09
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13948.83273
.ends 1008AF-582_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-582
* Inductance = 5.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-582_imp port1 port2 PARAMS: Cpar=1.45pF Ind=5.687uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.28
+ C= {Cpar}
+ K1=0.0007
+ K2=2.68
+ K3= {Ind}
+ K4=0.09
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13948.83273
.ends 1008AF-582_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-682_freq port1 port2 PARAMS: Cpar=2.22pF Ind=6.665uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.315
+ C= {Cpar}
+ K1=0.0005
+ K2=2.7
+ K3= {Ind}
+ K4=0.12
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13264.02241
.ends 1008AF-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-682_imp port1 port2 PARAMS: Cpar=2.163pF Ind=6.665uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.315
+ C= {Cpar}
+ K1=0.0005
+ K2=2.7
+ K3= {Ind}
+ K4=0.12
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13264.02241
.ends 1008AF-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-822_freq port1 port2 PARAMS: Cpar=2.4pF Ind=7.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.395
+ C= {Cpar}
+ K1=0.0005
+ K2=2.8
+ K3= {Ind}
+ K4=0.18
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15187.12688
.ends 1008AF-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-822_imp port1 port2 PARAMS: Cpar=2.329pF Ind=7.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.395
+ C= {Cpar}
+ K1=0.0005
+ K2=2.8
+ K3= {Ind}
+ K4=0.18
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15187.12688
.ends 1008AF-822_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008AF-103_freq port1 port2 PARAMS: Cpar=2.5pF Ind=9.71uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.48
+ C= {Cpar}
+ K1=0.0005
+ K2=3.2
+ K3= {Ind}
+ K4=0.2
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16846.71185
.ends 1008AF-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008AF-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008AF-103_imp port1 port2 PARAMS: Cpar=2.44pF Ind=9.71uH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.48
+ C= {Cpar}
+ K1=0.0005
+ K2=3.2
+ K3= {Ind}
+ K4=0.2
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16846.71185
.ends 1008AF-103_imp

